US04751225
To a suspension of sodium hydride (132 mg, 3.3 mmol; 60% in oil) in dimethylformamide (5 ml), a solution of 2-hydroxypyridine (314 mg, 3.3 mmol) in dimethylformamide (3 ml) was dropwise added with stirring, and stirring was continued at room temperature until the generation of hydrogen gas ceased. To the resultant solution, there was dropwise added a solution of 2-(4-phenoxyphenoxy)ethyl bromide (879 mg, 3.0 mmol) in dimethylformamide (3 ml), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water (70 ml) and extracted with toluene (25 ml) three times. The toluene layer was dried over anhydrous magnesium sulfate and the solvent was removed by evaporation. The residue was purified by silica gel column chromatography to give 2-[2-(4-phenoxyphenoxy)ethoxy]pyridine (264 mg) as white crystals. M.P., 94.2° C.

reactant | sodium hydride | 3.3 mmol, 132 mg | [H-].[Na+]
reactant | 2-hydroxypyridine | 3.3 mmol, 314 mg | OC1=NC=CC=C1 | C5H5NO
reactant | hydrogen | [H][H] | H2
reactant | 2-(4-phenoxyphenoxy)ethyl bromide | 3.0 mmol, 879 mg | O(C1=CC=CC=C1)C1=CC=C(OCCBr)C=C1 | C14H13BrO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 70 ml | O | H2O
product | 2-[2-(4-phenoxyphenoxy)ethoxy]pyridine | 264 mg | O(C1=CC=CC=C1)C1=CC=C(OCCOC2=NC=CC=C2)C=C1 | C19H17NO3
